US06479424B1
A 1 L three-neck round bottom flask equipped with a condenser, magnetic stir bar, thermometer, and a nitrogen inlet was charged with 3-(3,4-dimethylphenyl) propionic acid (64.0 g, 0.359 mol), dichloromethane (500 mL), and thionyl chloride (110 mL, 1.5 mol). The reaction mixture was stirred at reflux for 7 hours. Dichloromethane and excess thionyl chloride were removed by rotary evaporation under reduced pressure to yield 3-(3,4-dimethylphenyl)propionyl chloride as an amber oil (70.6 g, 100% conversion by GC).

reactant | 3-(3,4-dimethylphenyl) propionic acid | 0.359 mol, 64.0 g | CC=1C=C(C=CC1C)CCC(=O)O | C11H14O2
reactant | thionyl chloride | 1.5 mol, 110 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 3-(3,4-dimethylphenyl)propionyl chloride | CC=1C=C(C=CC1C)CCC(=O)Cl | C11H13ClO
